US08222245B2
1,1-Dimethylethyl 8-cyano-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of 1,1-dimethylethyl 8-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (Preparation 31) (0.397 g, 0.999 mmol), zinc cyanide (0.176 g, 1.499 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.115 g, 0.100 mmol) in DMF (4 ml) was stirred and heated at 80° C. for 2 hours then cooled and diluted with EtOAc/water (40 ml of each) and the organic washed with 3×20 ml of water, dried (magnesium sulphate), evaporated and purified by flash chromatography eluting with 1:4 EtOAc/iso-hexane to give the title compound (198 mgs) as a gum which crystallised slowly. MS (ES) C15H18N2O3 requires 274; found 175 [M+H−100]+.

reactant | 1,1-dimethylethyl 8-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.999 mmol, 0.397 g | FC(S(=O)(=O)OC1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1)(F)F | C15H18F3NO6S
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | EtOAc water | CCOC(=O)C.O
catalyst | zinc cyanide | 1.499 mmol, 0.176 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.100 mmol, 0.115 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-Dimethylethyl 8-cyano-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 198 mgs | C(#N)C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C15H18N2O3
